US07745462B2
Methyl 2-acetyl-3-phenylbutyrate
n-Butyllithium (2.5 M hexanes 12.4 ml, 30.9 mmol) is added to N,N-diisopropylamine (4.4 ml, 31.4 mmol) in tetrahydrofuran (THF, 50 ml) at 0° C. After 10 minutes, the resultant solution is transferred via cannula to a cooled (−78° C.) solution of methyl 3-phenylbutyrate (5.0 g, 28.05 mmol) in THF (50 ml). After 40 minutes, the resultant solution is transferred via cannula to a solution of acetyl chloride (19.15 ml) in THF (50 ml). The resultant mixture is stirred at −78° C. for 1.5 hours, then warmed to 0° C. after which water is added and the mixture is then poured into saturated NaHCO3 and extracted with EtOAc. The combined organic phases are washed with brine, dried (MgSO4) and evaporated. Purification by flash chromatography (12:1 EtOAc-hexane elution) affords the title compound. δH 1.3 (d J 7 3H), 2.3 (s 3H), 3.4 (s 3H), 3.6 (m 1H), 3.8 (m 1H), 7.2-7.4 (m 5H)

reactant | n-Butyllithium | 30.9 mmol, 2.5 M, 12.4 ml | C(CCC)[Li]
reactant | N,N-diisopropylamine | 31.4 mmol, 4.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyl 3-phenylbutyrate | 28.05 mmol, 5.0 g | C1(=CC=CC=C1)C(CC(=O)OC)C | C11H14O2
reactant | acetyl chloride | 19.15 ml | C(C)(=O)Cl | C2H3ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Methyl 2-acetyl-3-phenylbutyrate | C(C)(=O)C(C(=O)OC)C(C)C1=CC=CC=C1 | C13H16O3
